US05686424
A solution of L-proline-L-isoleucine benzylamide (10.22 g, 32.20 mmol), and sodium carbonate (6.824 g, 64.39 mmol, 2.0 eq), in acetonitrile (150 mL) was warmed to reflux until homogeneous, cooled to 22° C., and treated with benzyl 2-bromoacetate (14.75 g, 64.39 mmol, 2.0 eq). The flask was returned to the oil bath and warmed to reflux until TLC indicated the reaction was complete. The heterogeneous solution was filtered, concentrated to a residue, taken up in ethyl acetate (400 mL), and washed with satd aq NaHCO3 (2×50 mL). The solution was dried (MgSO4), concentrated to a residue, and purified by flash chromatography (20% ethyl acetate in hexane) to provide 14.80 g (99%) of L-isoleucine, N-[1-(2-benzyloxy-2-oxoethyl)-L-prolyl] benzylamide as a colorless oil.

reactant | L-proline L-isoleucine benzylamide | 32.20 mmol, 10.22 g | N1[C@H](C(=O)O)CCC1.C(C1=CC=CC=C1)NC([C@@H](N)[C@@H](C)CC)=O
reactant | sodium carbonate | 64.39 mmol, 6.824 g, 2.0 eq | C([O-])([O-])=O.[Na+].[Na+]
reactant | benzyl 2-bromoacetate | 64.39 mmol, 14.75 g, 2.0 eq | BrCC(=O)OCC1=CC=CC=C1 | C9H9BrO2
solvent | acetonitrile | 150 mL | C(C)#N | C2H3N
product | L-isoleucine, N-[1-(2-benzyloxy-2-oxoethyl)-L-prolyl] benzylamide | 14.80 g, 99% | C(C1=CC=CC=C1)OC(CN1[C@H](C(=O)N(C([C@@H](N)[C@@H](C)CC)=O)CC2=CC=CC=C2)CCC1)=O | C27H35N3O4
